US03982020
N-(2,6-difluorobenzylidene)-N'-amidino hydrazine was suspended in water and treated with hydrochloric acid to form the hydrochloride salt N-(2,6-difluorobenzylidene)-N'-amidino hydrazine hydrochloride (m.p. 200°-202°C).

reactant | N-(2,6-difluorobenzylidene)-N'-amidino hydrazine | FC1=C(C=NNC(N)=N)C(=CC=C1)F | C8H8F2N4
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | hydrochloride salt N-(2,6-difluorobenzylidene)-N'-amidino hydrazine hydrochloride | Cl.FC1=C(C=NNC(N)=N)C(=CC=C1)F.Cl | InChI=1S/C8H8F2N4.2ClH/c9-6-2-1-3-7(10)5(6)4-13-14-8(11)12;;/h1-4H,(H4,11,12,14);2*1H
